US08211908B2
To a solution of 1.5 g of methyl 2,6-dichloro-5-fluoronicotinate in 12 mL of methanol, a solution of 1.3 g of 28% sodium methoxide/methanol in 3 mL of methanol was dropped, and the mixture was stirred at room temperature for 40 minutes. Thereto were added water and ethyl acetate, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 1.2 g of methyl 2-chloro-5-fluoro-6-methoxynicotinate as a white solid.

reactant | methyl 2,6-dichloro-5-fluoronicotinate | 1.5 g | ClC1=C(C(=O)OC)C=C(C(=N1)Cl)F | C7H4Cl2FNO2
reactant | sodium methoxide methanol | 1.3 g | C[O-].[Na+].CO
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 12 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
product | methyl 2-chloro-5-fluoro-6-methoxynicotinate | 1.2 g | ClC1=C(C(=O)OC)C=C(C(=N1)OC)F | C8H7ClFNO3
